US06133258
The reaction procedure of Example 11 was followed except that 900 mg (3.34 mmol) of 2-(4-methylanilino)-4H-pyrido[3,2-e]-1,3-thiazin-4-one, 54 mg of lithium hydride and 633 mg of 2-diethylaminoethylchloride hydrochloride were used. The resulting residue was then purified through silica gel column chromatography (eluant: chloroform-3% methanol). The resulting compound was then recrystallized from a mixture of ether and hexane containing 4 N hydrogen hydride in dioxane to obtain 556 mg of 3-(2-diethylaminoethyl)-2,3-dihydro-2-[(4-methylphenyl)imino]-4H-pyrido[3,2-e]-1,3-thiazin-4-one monohydrochloride.

reactant | 2-(4-methylanilino)-4H-pyrido[3,2-e]-1,3-thiazin-4-one | 3.34 mmol, 900 mg | CC1=CC=C(NC=2SC3=C(C(N2)=O)C=CC=N3)C=C1 | C14H11N3OS
reactant | lithium hydride | 54 mg | [H-].[Li+]
reactant | 2-diethylaminoethylchloride hydrochloride | 633 mg | Cl.C(C)N(CCCl)CC
product | 3-(2-diethylaminoethyl)-2,3-dihydro-2-[(4-methylphenyl)imino]-4H-pyrido[3,2-e]-1,3-thiazin-4-one monohydrochloride | 556 mg | Cl.C(C)N(CCN1C(SC2=C(C1=O)C=CC=N2)=NC2=CC=C(C=C2)C)CC | InChI=1S/C20H24N4OS.ClH/c1-4-23(5-2)13-14-24-19(25)17-7-6-12-21-18(17)26-20(24)22-16-10-8-15(3)9-11-16;/h6-12H,4-5,13-14H2,1-3H3;1H
